US07186714B2
6-Bromo-2-(4-fluorophenyl)-8-methylimidazo[1,2-a]pyridine (6 g, 0.021 moles) was treated was treated with phosphorous oxychloride (2.8 mL) in N,N-dimethylformamide in a similar manner as described in Example 2 to give 6-bromo-2-(4-fluorophenyl)-8-methylimidazo[1,2-a]pyridine-3-carbaldehyde (5.7 g, 85%) as a white solid. 1H NMR (CDCl3): δ 10.04 (s, 1H), 9.73 (s, 1H), 7.86 (q, 2H), 7.53 (s, 1H), 7.25 (t, 2H), 2.75 (s, 3H); 19F NMR (CDCl3) δ −111.0; MS m/z 334 (M+1).

reactant | 6-Bromo-2-(4-fluorophenyl)-8-methylimidazo[1,2-a]pyridine | 0.021 moles, 6 g | BrC=1C=C(C=2N(C1)C=C(N2)C2=CC=C(C=C2)F)C | C14H10BrFN2
reactant | phosphorous oxychloride | 2.8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-bromo-2-(4-fluorophenyl)-8-methylimidazo[1,2-a]pyridine-3-carbaldehyde | 5.7 g, 85% | BrC=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)C=O)C | C15H10BrFN2O
